US08119676B2
Methyl bromo-(2-methoxyphenyl)acetate
A mixture of 14.6 g (81.2 mmol) of methyl (2-methoxyphenyl)acetate, 15.2 g (85.3 mmol) of N-bromosuccinimide and a catalytic amount of AIBN in tetrachloromethane (180 ml) was heated under reflux with stirring for 2 h. The cooled reaction solution was filtered, and the solvent was removed in vacuo. Yield: 21.6 g (100%) of yellow oil

reactant | methyl (2-methoxyphenyl)acetate | 81.2 mmol, 14.6 g | COC1=C(C=CC=C1)CC(=O)OC | C10H12O3
reactant | N-bromosuccinimide | 85.3 mmol, 15.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | tetrachloromethane | 180 ml | ClC(Cl)(Cl)Cl | CCl4
product | Methyl bromo-(2-methoxyphenyl)acetate | BrC(C(=O)OC)C1=C(C=CC=C1)OC | C10H11BrO3
